US04474777
A solution of 68.2 g (0.198 mol) of (S)-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one in a mixture of 400 ml of tetrahydrofuran and 950 ml of methanol is treated with Raney-nickel which has previously been washed several times with methanol and tetrahydrofuran and the suspension is hydrogenated while stirring and cooling with water, whereupon it is filtered and the filtrate is evaporated. The residue is recrystallized from ether, there being obtained (S)-7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one of melting point 221°; [α]25D =-13.8° (1 percent solution in methylene chloride).

reactant | (S)-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-7-nitro-2H-1,4-benzodiazepin-2-one | 0.198 mol, 68.2 g | ClC1=C(C=CC=C1)C1=N[C@H](C(N(C2=C1C=C(C=C2)[N+](=O)[O-])C)=O)C | C17H14ClN3O3
solvent | tetrahydrofuran | 400 ml | O1CCCC1 | C4H8O
solvent | methanol | 950 ml | CO | CH4O
catalyst | Raney-nickel | [Ni] | Ni
product | (S)-7-amino-5-(o-chlorophenyl)-1,3-dihydro-1,3-dimethyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=N[C@H](C(N2C)=O)C)C2=C(C=CC=C2)Cl)C1 | C17H16ClN3O
